US08227458B2
cis/trans-4-(Pyridazin-3-yloxy)-cyclohexanecarboxylic acid (1:1)
To a solution of cis/trans-4-(pyridazin-3-yloxy)-cyclohexanecarboxylic acid ethyl ester (1:1) (1.05 g, 4.19 mmol) in 1,4-dioxane (21 ml) was added 2 M aqueous sodium hydroxide solution (21 ml, 42 mmol). Stirring at room temperature for 16 h was followed by acidification to pH 2-3 with 1 M aqueous hydrogen chloride solution (44 ml) and extraction with three 100-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound (0.80 g, 86%) as off-white solid.

reactant | trans-4-(pyridazin-3-yloxy)-cyclohexanecarboxylic acid ethyl ester | 4.19 mmol, 1.05 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)OC=1N=NC=CC1 | C13H18N2O3
reactant | sodium hydroxide | 42 mmol, 2 M, 21 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 21 ml | O1CCOCC1 | C4H8O2
product | trans-4-(Pyridazin-3-yloxy)-cyclohexanecarboxylic acid | 0.80 g, 86% | N1=NC(=CC=C1)O[C@@H]1CC[C@H](CC1)C(=O)O | C11H14N2O3
